Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.76113395847
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7],4.8269240331
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[C:10]#[C:8][H:9]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]1,-1.0206679413
[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[O:1]([C:2]=[C:5]([H:3])[H:4])[H:7].[O:6]=[C:8]([H:9])[H:10],1.4236079085799995
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],7.271454644089999
[C:1]#[C:2][C:10]([H:11])([H:12])[H:13].[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.46460451755
[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],4.42525418859
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10],4.6738484341
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],2.5261889301
[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])=[C:7][H:8].[H:9]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-5.23579403983
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.6981667950800015
[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],0.330203489528
[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-8.543539726
[H:1][O:2][C:3]1=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13].[H:4]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-1.94266079417
[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.85149751016
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])([C:7])[H:12].[H:1][C:2]#[C:3][C:8]([C:9])([H:10])[H:11],9.1563864809
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-4.5342876504800005
[C:5](=[C:6](\[H:7])[O:8][H:9])\[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.3672864433399998
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.48806705478
[H:1][C:2]([H:3])=[C:4]1[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[O:11]1>>[H:1][C:5]([H:3])=[C:6][O:11][C:4](=[C:2])[C:7]([H:8])([H:9])[H:10],2.85935981226
[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-8.26989636954
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.13932441438
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][H:4],1.69781114182
[H:1][C:2]#[C:3][H:4]>>[C:3][H:4].[H:1][C:2],12.16085689
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.78162307491
[H:1][O:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.8819902198700005
[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[O:4])[C@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])([H:12])[H:13],-1.2035597935
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],2.0365877077000003
